US07452892B2
C. Preparation of (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol
To the solution of methyl 2-methyl-6-(trifluoromethyl)nicotinate (8.8 g, 40 mmol) in 40 mL dry THF at 0° C. under argon was added 1.0 M lithium aluminum hydride in THF solution (40 mL, 40 mmol) drop-wise over 15 min. The reaction mixture was allowed to warm to room temperature over 1 h. HPLC/MS analysis indicated that the reaction was complete. Rochelle's salt, 10% aqueous solution (20 mL) was carefully added to the stirring reaction mixture over a period of 10 min. After 1 h of subsequent stirring, 50 mL EtOAc and water were added. The layers were separated. The organic phase was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to obtain 7.5 g of the title compound as a colorless oil, which was greater than 98% pure. HPLC/MS: retention time=2.1 min, [M+H]30 =192.

reactant | methyl 2-methyl-6-(trifluoromethyl)nicotinate | 40 mmol, 8.8 g | CC1=C(C(=O)OC)C=CC(=N1)C(F)(F)F | C9H8F3NO2
reactant | lithium aluminum hydride | 1.0 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mmol, 40 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 7.5 g | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
